* coarse_tb_pvt.spice -- the coarse loop's own corners.
*
* The wrap's two trip points are transistor thresholds rather than references,
* which is deliberate: they sit at the rails of the vcoarse range, so what
* moves over PVT is how much dead travel the search does at each end and not
* whether it covers the middle.  That is an argument, and this is the
* measurement.  If the LO trip rises far enough at ss / -40 C the search stops
* reaching the fast third of the trim, and the corner table in section 7 --
* which assumes vcoarse can reach 0 -- would be wrong.
*
* Also reads the null at each corner.  The null is where the closed loop parks
* vctrl, so if it moves much with temperature the fine loop is being pushed
* off-centre exactly when it has least margin.
*
* Same shape as coarse_tb.spice with a shorter search phase: one full search
* and wrap is about 55 us at the nominal rate, so 70 us is enough to see the
* span, and the staircase is three points instead of five.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib    res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib    cap_typ

.include coarse_loop_fold2.inc

.global sub!
Vsub sub! 0 0

VDD VDD 0 1.2
VSS VSS 0 0
* The chip's bias pad: 40 uA into the diode-connected reference.
Ib  0 ibias dc 40u
XMREF ibias ibias 0 0 sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
* 100 fF on the bias node.  In the real macro ibias carries the CTLE's and the
* CDR's mirrors and the pad; here it carries four gates and an ideal current
* source, which is numerically stiff -- at -40 C the retrace edge killed the
* run outright with "Timestep too small, trouble with node ibias".  This is a
* testbench fix for a testbench artefact; the retrace device was weakened
* separately, for the part of it that is a real disturbance.
Cbias ibias 0 100f

* vctrl: railed high for 150 us so the search has to run and wrap several
* times, then a staircase through the window.
*
* The staircase is the real measurement, and it replaces a test that was asking
* the wrong question.  The window is not a dead zone: at these currents the
* input pairs are in weak inversion and steer over about 130 mV, so between the
* thresholds *both* are partly on and the loop settles where they balance.  So
* "does vcoarse hold at vctrl = 0.599?" has no good answer -- vcoarse holds at
* whatever vctrl the null happens to be at, and drifts everywhere else, which
* is the loop working, not failing.  The question worth asking is where that
* null is, because in the closed loop it is the vctrl the receiver ends up
* sitting at.  So: step vctrl across the window and measure dvcoarse/dt at each
* step.  The null is where it changes sign.
Vct vctrl 0 PWL
+ 0       0.10
+ 3u      1.10
+ 70u     1.10
+ 70.5u   0.660
+ 95u     0.660
+ 95.5u   0.600
+ 120u    0.600
+ 120.5u  0.540
+ 145u    0.540

x1 VDD VSS ibias vctrl vcoarse coarse_loop_fold2

.ic v(vcoarse)=0

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
foreach tmp -40 27 125
 foreach vd 1.08 1.2 1.32
  set temp = $tmp
  alter VDD = $vd

save v(vcoarse) v(vctrl) v(x1.rstn) v(x1.rst) v(x1.nlo) v(x1.nhi) v(x1.vh) v(x1.vl)
tran 50n 145u

* Per corner: where the retrace parks, the two trip points the search runs
* between, the rate, and the null.
meas tran v_park FIND v(vcoarse) AT=2u
meas tran vc_lo  MIN  v(vcoarse) FROM=5u TO=70u
meas tran vc_hi  MAX  v(vcoarse) FROM=5u TO=70u
meas tran s_a    FIND v(vcoarse) AT=30u
meas tran s_b    FIND v(vcoarse) AT=40u
let search_mV_us = (s_a - s_b)*1e3/10
meas tran n66a FIND v(vcoarse) AT=78u
meas tran n66b FIND v(vcoarse) AT=94u
meas tran n60a FIND v(vcoarse) AT=103u
meas tran n60b FIND v(vcoarse) AT=119u
meas tran n54a FIND v(vcoarse) AT=128u
meas tran n54b FIND v(vcoarse) AT=144u
let d_660 = (n66b-n66a)*1e3/16
let d_600 = (n60b-n60a)*1e3/16
let d_540 = (n54b-n54a)*1e3/16
let p_temp = $tmp
let p_vdd  = $vd
print p_temp p_vdd v_park vc_lo vc_hi search_mV_us d_660 d_600 d_540
 end
end
quit
.endc
.end
